US04242507
1-Hydroxy-6-nitro-1,2,3-benzotriazole (7.2 g) is dissolved in 1 N aqueous sodium hydroxide (40 ml). To the solution is added dropwise methanesulfonyl chloride (5.6 g) with stirring under ice-cooling and thereto are added ethyl acetate (100 ml) and water (100 ml). The mixture is stirred at room temperature for 1 hour. To the reaction mixture is added ethyl acetate (50 ml) and the insoluble materials are filtered off. The ethyl acetate layer is dried over magnesium sulfate-charcoal. After drying, the layer is concentrated so as to be about 30 ml and thereto is added n-hexane (about 30 ml) and the mixture is allowed to stand. The precipitated crystals are separated by filtration and dried to give 1-methanesulfonyloxy-6-nitro-1,2,3-benzotriazole (7.3 g; 72%), melting point: 115°-116° c. The product is dissolved in ethyl acetate and treated with charcoal and thereto is added n-hexane to give faint yellow flakes melting point: 117°-118° C.

reactant | 1-Hydroxy-6-nitro-1,2,3-benzotriazole | 7.2 g | ON1N=NC2=C1C=C(C=C2)[N+](=O)[O-] | C6H4N4O3
reactant | methanesulfonyl chloride | 5.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 100 ml | O | H2O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 1 N, 40 ml | [OH-].[Na+]
product | 1-methanesulfonyloxy-6-nitro-1,2,3-benzotriazole | 7.3 g, 72% | CS(=O)(=O)ON1N=NC2=C1C=C(C=C2)[N+](=O)[O-] | C7H6N4O5S
